US06287794B1
4-(S)-[2-(S)-Allyloxycarbonylamino-3-(4-carbamimidoyl-phenyl)-propionylamino]-4-(2-carbamoyl-1-(S)-(2-phenylethylcarbamoyl)-ethylcarbamoyl)-butyric acid hydrochloride (Alloc-pAph-Glu-Asn-NH—CH2—CH2—Ph)
To 2-(S)-[2-(S)-allyloxycarbonylamino-3-(4-carbamimidoyl-phenyl)-propionylamino]-pentanedioic acid 5-tert-butyl ester (48 mg, 0.1 mmol) and 2-(S)-amino-N1-phenylethyl-succinamide hydrochloride (27 mg, 0.1 mmol) in 5 ml of DMF were added at 0° C. HATU (39 mg, 0.1 mmol) and collidine (24.2 mg, 0.2 mmol). The mixture was stirred for 1 hour and then allowed to warm to room temperature. After evaporation the residue was purified by chromatography on Sephadex LH20 employing n-butanol/glacial acetic acid/water (17/1/2) as eluent. Pure fractions were combined. The solvent was evaporated, the residue was taken up in water and the aqueous solution was freeze-dried. Yield: 45 mg (66%). MS: m/z=638.4 (M+H)+.

reactant | 2-(S)-[2-(S)-allyloxycarbonylamino-3-(4-carbamimidoyl-phenyl)-propionylamino]-pentanedioic acid 5-tert-butyl ester | 0.1 mmol, 48 mg | C(C)(C)(C)OC(CC[C@@H](C(=O)O)NC([C@H](CC1=CC=C(C=C1)C(N)=N)NC(=O)OCC=C)=O)=O | C23H32N4O7
reactant | 2-(S)-amino-N1-phenylethyl-succinamide hydrochloride | 0.1 mmol, 27 mg | Cl.N[C@H](C(=O)NCCC1=CC=CC=C1)CC(=O)N
reactant | HATU | 0.1 mmol, 39 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | collidine | 0.2 mmol, 24.2 mg | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(S)-[2-(S)-Allyloxycarbonylamino-3-(4-carbamimidoyl-phenyl)-propionylamino]-4-(2-carbamoyl-1-(S)-(2-phenylethylcarbamoyl)-ethylcarbamoyl)-butyric acid hydrochloride | Cl.C(C=C)OC(=O)N[C@H](C(=O)N[C@@H](CCC(=O)O)C(N[C@@H](CC(N)=O)C(NCCC1=CC=CC=C1)=O)=O)CC1=CC=C(C=C1)C(N)=N | InChI=1S/C31H39N7O8.ClH/c1-2-16-46-31(45)38-23(17-20-8-10-21(11-9-20)27(33)34)30(44)36-22(12-13-26(40)41)29(43)37-24(18-25(32)39)28(42)35-15-14-19-6-4-3-5-7-19;/h2-11,22-24H,1,12-18H2,(H2,32,39)(H3,33,34)(H,35,42)(H,36,44)(H,37,43)(H,38,45)(H,40,41);1H/t22-,23-,24-;/m0./s1
